US08440710B2
Step 3: (5α,8α)-)-2-(4-(2,2-difluoro-1-hydroxypropyl)phenyl)-8-hydroxy-8-(prop-1-en-2-yl)-2-aza-spiro[4.5]decan-1-one
The title compound was prepared in analogy to example 55 from (2-(4-(2,2-difluoro-1-hydroxypropyl)phenyl)-2-aza-spiro[4.5]decane-1,8-dione by reaction with isopropenylmagnesium bromide (0.5 M in THF) as a white solid. MS (m/e): 379[M+].

reactant | 2-(4-(2,2-difluoro-1-hydroxypropyl)phenyl)-2-aza-spiro[4.5]decane-1,8-dione | FC(C(O)C1=CC=C(C=C1)N1C(C2(CC1)CCC(CC2)=O)=O)(C)F | C18H21F2NO3
reactant | isopropenylmagnesium bromide | 0.5 M | C(=C)(C)[Mg]Br
product | 2-(4-(2,2-difluoro-1-hydroxypropyl)phenyl)-8-hydroxy-8-(prop-1-en-2-yl)-2-aza-spiro[4.5]decan-1-one | FC(C(O)C1=CC=C(C=C1)N1C(C2(CC1)CCC(CC2)(C(=C)C)O)=O)(C)F | C21H27F2NO3
